US07517907B2
4. Preparation of Methyl 6-[3-Adamantan-1-yl-4-(2,2-dimethyl[1,3]dioxolan-4-ylmethoxy)phenyl]naphthalene-2-carboxylate
962 mg (39.6 mmol) of magnesium granules are wetted with a minimum of THF. A solution of 7.4 g (17.6 mmol) of 4-(2-adamantan-1-yl-4-bromophenoxymethyl)-2,2-dimethyl[1,3]dioxolane, 50 ml of THF and 300 μl (3.5 mmol) of dibromoethane is run dropwise into the suspension of magnesium. The reaction medium is heated at the reflux of the THF for 1 h 30 min and then brought back to 20° C. 5.1 g (37.6 mmol) of zinc chloride, dried and melted under vacuum beforehand, are added while keeping the temperature of the medium at 20° C., and then 50 ml of THF are added and the medium is stirred at 20° C. for 1 h 30 min. 10 g (37.6 mmol) of methyl 6-bromonaphthalene-2-carboxylate are added in small fractions while maintaining the temperature of the medium at 20° C., and then 300 mg of NiCl2/dppe complex and 50 ml of THF are added and the reaction medium is stirred at ambient temperature for 15 h. The reaction medium is then treated with a saturated ammonium chloride solution and extracted with ether. The organic phase is filtered, washed with water, and then dried and concentrated under reduced pressure. The residue obtained is then purified by chromatography on a silica column (elution being carried out with 70 heptane/30 dichloromethane).

reactant | magnesium | 39.6 mmol, 962 mg | [Mg] | Mg
reactant | 4-(2-adamantan-1-yl-4-bromophenoxymethyl)-2,2-dimethyl[1,3]dioxolane | 17.6 mmol, 7.4 g | C12(CC3CC(CC(C1)C3)C2)C2=C(OCC3OC(OC3)(C)C)C=CC(=C2)Br | C22H29BrO3
reactant | dibromoethane | 3.5 mmol, 300 μl | BrC(C)Br | C2H4Br2
reactant | methyl 6-bromonaphthalene-2-carboxylate | 37.6 mmol, 10 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc chloride | 37.6 mmol, 5.1 g | [Cl-].[Zn+2].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 6-[3-Adamantan-1-yl-4-(2,2-dimethyl[1,3]dioxolan-4-ylmethoxy)phenyl]naphthalene-2-carboxylate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCC2OC(OC2)(C)C)C=2C=C3C=CC(=CC3=CC2)C(=O)OC | C34H38O5
